US06252070B1
({2-[Hydroxy-(7-methoxy-benzo[1,3]dioxol-5-yl)-methyl]-benzenesulfonyl}-o-tolyl-amino)-acetic acid methyl ester
Sixty percent sodium hydride suspension in oil (0.422 g, 10.55 mmol) was washed with tetrahydrofuran and was added to tetrahydrofuran (175 mL). To this was added 2-[hydroxy-(7-methoxy-benzo[1,3]dioxol-5-yl)-methyl]-N-o-tolyl-benzenesulfonamide (4.1 g, 9.59 mmol). After stirring for 30 minutes, methyl bromoacetate (1.09 mL, 11.5 mmol) was added followed by stirring at reflux for 18 hours. The mixture was evaporated to an oil in vacuo, and the residue was resuspended in ethyl ether, washed with 1N citric and brine. The solution was dried over anhydrous magnesium sulfate, filtered, and evaporated to a solid. The material was chromatographed on 300 g silica gel eluted with a mixture of ethyl acetate and hexane (35:65). The appropriate fractions were concentrated in vacuo from ethyl ether giving a solid, 4.29 g, 89.5% yield. NMR spectra and elemental analysis were consistent with the structure.

reactant | sodium hydride | [H-].[Na+]
reactant | 2-[hydroxy-(7-methoxy-benzo[1,3]dioxol-5-yl)-methyl]-N-o-tolyl-benzenesulfonamide | 9.59 mmol, 4.1 g | OC(C1=C(C=CC=C1)S(=O)(=O)NC1=C(C=CC=C1)C)C1=CC2=C(OCO2)C(=C1)OC | C22H21NO6S
reactant | methyl bromoacetate | 11.5 mmol, 1.09 mL | BrCC(=O)OC | C3H5BrO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 175 mL | O1CCCC1 | C4H8O
product | ({2-[Hydroxy-(7-methoxy-benzo[1,3]dioxol-5-yl)-methyl]-benzenesulfonyl}-o-tolyl-amino)-acetic acid methyl ester | 89.5% yield | COC(CN(C1=C(C=CC=C1)C)S(=O)(=O)C1=C(C=CC=C1)C(C1=CC2=C(OCO2)C(=C1)OC)O)=O | C25H25NO8S
